US07781478B2
To a solution of 1-cyclopropyl-6-hydroxy-1H-indole-3-carbonitrile (0.59 g, 3.0 mmol) and triisopropylborate (1.03 mL, 4.5 mmol) in THF (15 mL) at −78° C. was added LDA (1.5M mono THF in cyclohexane, 4.60 mL, 6.9 mmol) with stirring. The mixture was stirred at −78° C. for 10 min and at room temperature for 30 min followed by the addition of (R)-(4-iodo-phenyl)-carbamic acid 1-cyclopropyl-ethyl ester (1.19 g, 3.6 mmol) and PdCl2 (dppf) (0.11 g, 0.15 mmol). The reaction mixture was cooled to −78° C. and flushed with nitrogen whereupon DMF (30 mL) and aq. K2CO3 (2.0M, 4.5 mL, 9.0 mmol) was added. The cooling bath was removed and the mixture was stirred overnight, poured into ice water (100 mL) and neutralized with acetic acid. The precipitate was filtered, washed with water, dried in air and purified on silica gel (CH2Cl2/EtOAc, 9:1) to give (R)-[4-(3-cyano-1-cyclopropyl-6-hydroxy-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester as a solid (1.16 g, 97%).

reactant | 1-cyclopropyl-6-hydroxy-1H-indole-3-carbonitrile | 3.0 mmol, 0.59 g | C1(CC1)N1C=C(C2=CC=C(C=C12)O)C#N | C12H10N2O
reactant | triisopropylborate | 4.5 mmol, 1.03 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | LDA | 6.9 mmol, 1.5M, 4.60 mL | [Li+].CC(C)[N-]C(C)C
reactant | (R)-(4-iodo-phenyl)-carbamic acid 1-cyclopropyl-ethyl ester | 3.6 mmol, 1.19 g | C1(CC1)[C@@H](C)OC(NC1=CC=C(C=C1)I)=O | C12H14INO2
reactant | K2CO3 | 9.0 mmol, 2.0M, 4.5 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | PdCl2 | 0.15 mmol, 0.11 g | Cl[Pd]Cl
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (R)-[4-(3-cyano-1-cyclopropyl-6-hydroxy-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester | 1.16 g, 97% | C1(CC1)[C@@H](C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)O)C1CC1)=O | C24H23N3O3
